US07375204B2
N,N-dimethyl-4-pentynamide
Dimethylamine (2 M solution in tetrahydrofuran, 8.53 ml), triethylamine (2.59 ml), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (3221 mg), were added to a solution of 4-pentynoic acid (552 mg) in methylene chloride (150 ml) and this reaction mixture was stirred at room temperature for 24 hours. The reaction mixture was washed successively with 1 N hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution, water, and saturated brine, dried over anhydrous magnesium sulfate, then concentrated under reduced pressure to give the title compound (129 mg). The obtained compound was used in the following reaction without further purification.

reactant | Dimethylamine | 2 M, 8.53 ml | CNC | C2H7N
reactant | triethylamine | 2.59 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 3221 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 4-pentynoic acid | 552 mg | C(CCC#C)(=O)O | C5H6O2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-4-pentynamide | 129 mg | CN(C(CCC#C)=O)C | C7H11NO
